US07425560B2
a) 6-Amino-1-cyclopropylmethyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one
To 1-cyclopropylmethyl-2-thiourea (0.60 g, 4.6 mmol) in ethanol (10 mL) was added sodium methoxide (0.26 g, 4.8 mmol) and, after 5 minutes, ethyl cyanoacetate (0.50 mL, 4.6 mmol). The resulting mixture was heated to reflux for 2 h and 40 minutes followed by evaporation of the solvent under reduced pressure and treatment of the resulting yellow solid with 2M aqueous acetic acid (10 mL) giving a white solid. The solid was collected by filtration and washed with 2M aqueous acetic acid (10 mL), stirred with ethanol (10 mL) followed by evaporation and drying under reduced pressure, giving the title compound (0.51 g, 56%).

reactant | 1-cyclopropylmethyl-2-thiourea | 4.6 mmol, 0.60 g | C1(CC1)CNC(=S)N | C5H10N2S
reactant | sodium methoxide | 4.8 mmol, 0.26 g | C[O-].[Na+]
reactant | ethyl cyanoacetate | 4.6 mmol, 0.50 mL | C(#N)CC(=O)OCC | C5H7NO2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-Amino-1-cyclopropylmethyl-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 0.51 g, 56% | NC1=CC(NC(N1CC1CC1)=S)=O | C8H11N3OS
